US05616596
A solution of (2S-trans)-3-methyloxiranemethanol 4-methylbenzenesulfonate (484 mg; 2 mmol), prepared as in step 1, in dry THF (20 ml) was treated at -70° C. to -60° C. with n-BuLi (1.6M in hexane, 7.5 ml, 12 mmol) under an atmosphere of nitrogen. Glacial acetic acid (1 ml) was added after consumption of all the rosylate (monitored by TLC). After 15 min, sodium bicarbonate (600 mg) was added and the reaction mixture was allowed to warm to room temperature. After filtration through Celite, N,O-diphenoxycarbonylhydroxylamine (550 mg, 2.00 mmol) and triphenylphosphine (786 mg, 3.00 mmol) were added to the filtrate. The resulting mixture was treated with DEAD (0.5 ml, 3.0 mmol), taking care that the reaction temperature did not rise above ambient temperature. The reaction mixture was stirred at room temperature for 16 hours and then concentrated in vacuo. The residue was purifed by chromatography on silica-gel (10% ethyl acetate/hexane) to give (R)-N,O-bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine(contaminated with phenol).

reactant | (2S-trans)-3-methyloxiranemethanol 4-methylbenzenesulfonate | 2 mmol, 484 mg | C[C@H]1[C@@H](O1)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | n-BuLi | 12 mmol, 1.6M, 7.5 ml | [Li]CCCC
reactant | N,O-diphenoxycarbonylhydroxylamine | 2.00 mmol, 550 mg | O(C1=CC=CC=C1)C(=O)NOC(=O)OC1=CC=CC=C1 | C14H11NO5
reactant | triphenylphosphine | 3.00 mmol, 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 3.0 mmol, 0.5 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (R)-N,O-bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine | O(C1=CC=CC=C1)C(=O)N(OC(=O)OC1=CC=CC=C1)[C@H](C)C#C | C18H15NO5
